US04124704
Using the method of Example 17, 2-bromo-3-(2-fluorophenyl)-4-methoxy-7-benzofuranacetic acid is reacted with dinitrogen tetroxide to provide 3-(2-fluorophenyl)-4-methoxy-2-nitro-7-benzofuranacetic acid. Recrystallization of the acid from benzene provides yellow crystals, m.p. 185°-195° C.

reactant | 2-bromo-3-(2-fluorophenyl)-4-methoxy-7-benzofuranacetic acid | BrC1(OC=2C(C=CC2)=C(C1C1=C(C=CC=C1)F)OC)CC(=O)O | C17H14BrFO4
reactant | dinitrogen tetroxide | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 3-(2-fluorophenyl)-4-methoxy-2-nitro-7-benzofuranacetic acid | FC1=C(C=CC=C1)C1C(OC=2C(C=CC2)=C1OC)(CC(=O)O)[N+](=O)[O-] | C17H14FNO6
